US07807673B2
Step C: 4-(Methyloxy)-3-{4-[2-(methylsulfonyl)ethyl]-1-piperazinyl}aniline
To a solution of 0.5 g of 1-[2-(methyloxy)-5-nitrophenyl]-4-[2-(methylsulfonyl)ethyl]piperazine (0.5 g, 1.46 mmol) in EtOH (15 mL) was added 10% Pd/C (0.05 g) and reaction stirred under H2 for 18 h. Reaction was then filtered through celite and the solvent removed in vacuo to give the desired product as yellow oil, 0.36 g (55% yield). 1H NMR (400 MHz, DMSO-D6) δ ppm 2.5 (m, 3H) 2.7 (t, J=6.4 Hz, 3H) 2.9 (d, J=1.8 Hz, 2H) 2.9 (d, J=11.4 Hz, 2H) 3.0 (s, 4H) 3.3 (d, J=6.4 Hz, 3H) 3.6 (s, 3H) 6.1 (dd, J=8.3, 2.5 Hz, 1H) 6.2 (d, J=2.4 Hz, 1H) 6.6 (d, J=8.8 Hz, 1H).

reactant | 1-[2-(methyloxy)-5-nitrophenyl]-4-[2-(methylsulfonyl)ethyl]piperazine | 1.46 mmol, 0.5 g | COC1=C(C=C(C=C1)[N+](=O)[O-])N1CCN(CC1)CCS(=O)(=O)C | C14H21N3O5S
solvent | EtOH | 15 mL | CCO | C2H6O
catalyst | Pd/C | 0.05 g | [Pd] | Pd
product | 4-(Methyloxy)-3-{4-[2-(methylsulfonyl)ethyl]-1-piperazinyl}aniline | 55% yield | COC1=C(C=C(N)C=C1)N1CCN(CC1)CCS(=O)(=O)C | C14H23N3O3S
